US05618941
3-[2-[(4-Chlorophenyl)sulphonylamino]ethyl]-5-(4-methylsulphonylbenzoyl)benzenepropanoic acid
A solution of 3-[2-[(4-chlorophenyl)sulphonylamino]ethyl]-5-(4-fluorobenzoyl)benzenepropanoic acid (0.25 g) and sodium methanesulphinate (0.61 g) in dimethylsulphoxide (1.0 ml) was heated at 130° C. under dry nitrogen for 30 hours. Additional sodium methanesulphinate (1.2 g) was added and heating was continued for a further 20 hours. The solution was diluted with water, acidified with 2N hydrochloric acid and extracted several times with ethyl acetate. The combined extracts were washed with water, dried (MgSO4) and evaporated. The residue was chromatographed on silica gel using dichloromethane/methanol (97:3) as eluent. The product fractions were combined and evaporated to give the title compound as a foam (0.115 g), Rf 0.25(SS 8). Found: C,54.96; H,4.53; N,2.18. C25H24CINO7S2 requires: C,54.59; H,4.40; N,2.55%.

reactant | 3-[2-[(4-chlorophenyl)sulphonylamino]ethyl]-5-(4-fluorobenzoyl)benzenepropanoic acid | 0.25 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCC=1C=C(C=C(C1)C(C1=CC=C(C=C1)F)=O)CCC(=O)O | C24H21ClFNO5S
reactant | sodium methanesulphinate | 0.61 g | CS(=O)[O-].[Na+]
reactant | sodium methanesulphinate | 1.2 g | CS(=O)[O-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | dimethylsulphoxide | 1.0 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3-[2-[(4-Chlorophenyl)sulphonylamino]ethyl]-5-(4-methylsulphonylbenzoyl)benzenepropanoic acid | 0.115 g | ClC1=CC=C(C=C1)S(=O)(=O)NCCC=1C=C(C=C(C1)C(C1=CC=C(C=C1)S(=O)(=O)C)=O)CCC(=O)O | C25H24ClNO7S2
